US04012413
In the manner given in Example 1, N,N-dimethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetamide is reduced with borane to give 1-[2-(dimethylamino)ethyl]-5,6-dihydro-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | N,N-dimethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetamide | CN(C(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1)=O)C | C20H18ClN5O
reactant | borane | B | BH3
product | 1-[2-(dimethylamino)ethyl]-5,6-dihydro-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | CN(CCC1=NN=C2N1C1=C(C(NC2)C2=C(C=CC=C2)Cl)C=CC=C1)C | C20H22ClN5
